Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / hydrocortisone / propylene 
glycol
 
Attending: ___.
 
Chief Complaint:
hemorrhage 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with history of prior 
right occipital IPH (___) attributed to likely cerebral amyloid 
angiopathy, with no residual deficits, HLD, who presents with 1 
week history of right occipital headache and visual field 
deficit. History provided by patient and some collateral from 
son.

The patient reports she was in her usual state of health until 1 
week ago, when she developed gradual onset of a headache.  
Headache was located in the right occipital area, of gradual 
onset.  This was a relatively low-grade headache, but did bother 
her enough that she took several naps and spent most of her day 
in bed.  It was associated with gradual development of visual 
field loss.  Patient notes that she gradually noticed that part 
of her visual field was missing, but has difficulty describing 
what part of the visual field specifically is impaired.  She 
believes the peripheral vision is affected, but cannot clarify 
further.  She did try closing either eye without improvement.  
She first noticed this impact her functioning when she went to 
drive, and noticed that people were honking at her on the road.  
She  believes that she crossed over onto the incoming ___ of 
traffic without realizing that she was out of the leg.  She 
initially noticed this only when driving at night, but more 
recently noticed that impacting her during the day.

As her symptoms persisted, the patient had a minor motor vehicle 
accident earlier today, prompting presentation to the emergency 
department.  At that time, she was parked on the side of the 
road, and attempting to anterior ongoing traffic.  At that time, 
as she was trying to pull out onto the road her car struck the 
car that was parked in front of her.  At this point, she was 
concerned that she knew that her vision was significantly 
impacted, and came to the ___ emergency 
department for further evaluation.

Prior to onset of the above, patient reports that she did have a 
low-grade headache as described.  This is associated with 
generalized malaise, and patient was initially wondering whether 
she had the flu.  Otherwise, it is notable that she did self 
discontinue her home metoprolol, because she "felt that her 
blood pressure was low" due to the malaise.  The patient and her 
son note that she strongly prefers to avoid medications.  
Otherwise, denies any recent fevers, denies any recent 
stressors, denies any recent trauma or falls.  Her son does not 
live with her, but has spoken with her over the phone multiple 
times over the last week and believe she is at her usual state 
of health.  He believes she is at her baseline now apart from 
the visual field cut.

Of note, the patient has a history of a prior right occipital 
hemorrhage, attributed due to amyloid angiopathy, in ___.  At that time, she presented with a severe headache 
located in the right occipital area, as well as unusual visual 
disturbances.  At that time, she did not have overt visual field 
cut, but rather sensations of the sun shining through the trees 
while driving.  Workup revealed a right occipital 
intraparenchymal hemorrhage that was 2.1 cm in length, with mild 
adjacent sulcal effacement, but no intraventricular extension.  
Workup included a CTA which is negative for vascular 
malformation.  MRI revealed a chronic microhemorrhage seen in 
GRE close to the acute right occipital hemorrhage site, 
subcortical in location.  The etiology of the bleed was thought 
to be due to amyloid angiopathy.  She did have several elevated 
blood pressure readings in the setting of anxiety, and was 
started on lisinopril for blood pressure control.  This was 
changed to metoprolol shortly after discharge from the hospital 
due to difficulty tolerating lisinopril.  Stroke risk factors 
were notable for LDL 174, and hemoglobin A1c 6.8.  She has since 
been followed by Dr. ___.

Regarding her baseline, the patient lives independently.  She 
very much values her independence.  She and her son report that 
she is independent with all activities of daily living, 
including hygiene, preparing meals, managing finances.  She did 
drive up until today.  She does have a housecleaner who comes to 
the house to assist with cleaning.  

Currently, the patient reports feeling at her baseline apart 
from a visual field cut. On neurologic ROS, denies headache, 
blurred vision, diplopia, dysarthria, dysphagia, 
lightheadedness, vertigo, tinnitus or hearing difficulty. 
Denies difficulties producing or comprehending speech.  Denies 
focal weakness, numbness, parasthesiae. No bowel or bladder 
incontinence or retention. Denies difficulty with gait.
 

 
Past Medical History:
-History of prior right occipital IPH (___) thought to be ___ 
amyloid angiopathy, with no clear residual deficits
-Previously diagnosed hyperlipidemia, diet controlled per 
patient 
-Chronic anxiety 
 
 
Social History:
___
Family History:
No family history of strokes or hemorrhage. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: T 97.2F, HR 86, BP 152/97, RR 16, O2 97% RA

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Neck: Supple, No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward with 1 
error. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects.  Able 
to read without difficulty, though does not read the words on 
the left side of the page. Speech was not dysarthric. Able to 
follow both midline and appendicular commands. There was no 
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. On visual field testing there is a 
left homonymous hemianopia to both finger couting and finger 
wiggling, though most dense in the left inferior quadrant. There 
may be a more mild right hemianopia as well, as she cannot count 
fingers but can discern finger wiggling.  Fundoscopic exam 
unable to visualize fundus as patient has difficulty tolerating 
the exam. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength 
full with tongue-in-cheek testing.

-Motor: Reduced bulk, normal tone throughout. No pronator drift 
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5     ___   5    ___   5    5      5
R  5     ___   5    ___   5    5      5

-Sensory: No deficits to light touch, pinprick, proprioception 
throughout. No extinction to DSS. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2+ 2+   2+   2+  1
R   2+ 2+   2+   2+  1
Plantar response was flexor on right, extensor on left.

-Coordination: No intention tremor. No dysmetria on FNF 
bilaterally.

-Gait: Deferred given hemorrhage and fall risk with clear visual 
field deficit. 
================================

DISCHARGE PHYSICAL EXAM:
___ 0346 Temp: 98.4 PO BP: 113/72 R Lying HR: 64 RR: 20 O2 
sat: 97% O2 delivery: Ra 

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Neck: Supple, No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Language is fluent. There were no paraphasic 
errors. Speech was not dysarthric. Able to follow both midline 
and appendicular commands. Patient is perseverative. Difficulty 
seeing left side of space.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 3mm and brisk. EOMI without
nystagmus. Normal saccades. On visual field testing there is a 
left homonymous hemianopia to finger wiggling and finger 
counting, most dense in the left inferior quadrant. Also with 
difficulty finger counting in right superior quadrant. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.
-Motor: Reduced bulk, normal tone throughout. Pronation on the 
left. No tremor noted. 
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5     ___   5    ___   5    5      5
R  5     ___   5    ___   5    5      5

-Sensory: No deficits to light touch throughout. No extinction 
to DSS. 

-DTRs: not tested today but normal and symmetric on admission

-Coordination: No dysmetria on FNF bilaterally.

 
Pertinent Results:
ADMISSION LABS:
___ 05:40PM BLOOD WBC-7.8 RBC-4.18 Hgb-12.9 Hct-38.1 MCV-91 
MCH-30.9 MCHC-33.9 RDW-12.0 RDWSD-40.1 Plt ___
___ 05:40PM BLOOD Neuts-57.1 ___ Monos-10.3 
Eos-0.5* Baso-0.8 Im ___ AbsNeut-4.44 AbsLymp-2.41 
AbsMono-0.80 AbsEos-0.04 AbsBaso-0.06
___ 05:40PM BLOOD ___ PTT-25.3 ___
___ 05:40PM BLOOD Glucose-102* UreaN-11 Creat-0.8 Na-141 
K-4.5 Cl-105 HCO3-22 AnGap-14
___ 05:40PM BLOOD ALT-13 AST-31 CK(CPK)-179 AlkPhos-55 
TotBili-0.7
___ 05:40PM BLOOD CK-MB-3
___ 05:40PM BLOOD cTropnT-<0.01
___ 05:40PM BLOOD Albumin-3.7 Cholest-222*
___ 04:25AM BLOOD Calcium-9.0 Phos-3.8 Mg-2.2
___ 05:58PM BLOOD %HbA1c-6.6* eAG-143*
___ 05:40PM BLOOD Triglyc-118 HDL-62 CHOL/HD-3.6 
LDLcalc-136*
___ 05:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

IMAGING:
CTA H&N ___: 
1. Stable, 2.3 x 1.7 cm high posterior right parietal 
intraparenchymal 
hematoma with mild surrounding vasogenic edema.  No significant 
mass effect. 
2. No additional sites of acute intracranial hemorrhage or 
evidence for 
infarct by CT. 
3. No underlying enhancement within the vicinity of the right IP 
age to 
suggest a mass or AVM. 
4. Patent intracranial vasculature without high-grade stenosis, 
occlusion, or aneurysm greater than 3 mm. 
5. Additional findings, as above. 

CXR ___:
No acute cardiopulmonary process. 

Discharge Laboratory Data:
___ 04:45AM BLOOD WBC: 7.4 RBC: 4.24 Hgb: 13.1 Hct: 39.3 
MCV: 93 MCH: 30.9 MCHC: 33.3 RDW: 12.2 RDWSD: 41.___ 
___ 04:45AM BLOOD Glucose: 117* UreaN: 21* Creat: 0.8 Na: 
141 K: 4.3 Cl: 102 HCO3: 26 AnGap: 13 
___ 05:40PM BLOOD cTropnT: <0.01 
___ 05:58PM BLOOD %HbA1c: 6.6* eAG: 143* 
___ 05:40PM BLOOD Cholest: 222* Triglyc: 118 HDL: 62 
CHOL/HD: 3.6 LDLcalc: 136* 

  

 
Brief Hospital Course:
Ms. ___ is a ___ old woman with a history of prior right 
occipital IPH (___) attributed to likely cerebral amyloid 
angiopathy, with no residual deficits, HLD, who presented with 1 
week history of right occipital headache and L homonymaous 
hemianopia, found to have new right parietal/occipital IPH. She 
was admitted to the Neurology stroke service for closer 
monitoring. Her stroke was most likely secondary to cerebral 
amyloid angiopathy given the lobar location, with hemorrhage in 
the setting of self discontinuation of her home 
antihypertensive. Notably, there were not many microhemorrhages 
on MRI in ___. MRI was not repeated as this would not have 
changed management. CTA Head did not show any vascular 
malformation. Her blood pressure was monitored and she was 
started back on home Metoprolol 12.5mg daily to keep blood 
pressure within normal range. Aspirin and anti-platelets were 
avoided in addition to statins despite LDL of 136 as there is 
risk of bleeding with statins in the setting of CAA. HgA1c 6.6. 
Physical exam was notable for mild cognitive deficits and dense 
left homonymous hemianopia greater in the left inferior quadrant 
and mild deficits in the right superior quadrant. She was 
assessed by ___ who recommended acute rehab. She should avoid 
driving until follow-up with her neurologist given the large 
left sided field cut.

Transitional issues: 
[ ] monitor blood pressure on extended release metoprolol
[ ] Avoid aspirin, statin, NSAIDs
[ ] Cautioned to stop driving until follow-up with neurology
[ ] Follow up with Neurologist Dr. ___ at 1pm on ___ at 
the ___, ___

___/ASA Core Measures for Intracerebral Hemorrhage 
 1. Dysphagia screening before any PO intake? (x) Yes - () No 
 2. DVT Prophylaxis administered? (x) Yes - () No 
 3. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate] 
 4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
 5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No 

 
Medications on Admission:
Non-compliant with home extended release metoprolol
 
Discharge Medications:
1.  Metoprolol Succinate XL 12.5 mg PO DAILY 
Please take it every day.   

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right occipital Intraparenchymal hemorrhage 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were hospitalized due to symptoms of headache and difficulty 
seeing resulting from an ACUTE HEMORRHAGIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is broken causing bleeding. The brain is the part of your body 
that controls and directs all the other parts of your body, so 
damage to the brain from being deprived of its blood supply can 
result in a variety of symptoms. You will be going to rehab 
where you will continue to recover from your stroke. Because of 
your visual deficits it is no longer safe for you to drive. 

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
Your brain bleed was due to uncontrolled high blood pressure 
because you stopped taking your blood pressure medication. In 
order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
-cerebral amyloid angiopathy
-high cholesterol
-high blood pressure
  
We are changing your medications as follows:  
-Restart Metoprolol succinate 12.5mg daily
-Avoid aspirin, NSAIDs, statins

Please take your other medications as prescribed.  
 
Please follow up with Neurology and your primary care physician 
as listed below.  You have an appointment with Neurologist Dr. 
___ at 1pm on ___ at the ___ Center. 
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___